US07723333B2
4-{2-[(2-Isopropyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]ethyl}benzonitrile
A mixture of 4-chloro-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide (0.15 g, 0.52 mmol), 4-(2-aminoethyl)benzonitrile (0.09 g, 0.63 mmol) and TEA (0.07 g, 0.68 mmol) in MeCN (1.5 ml) was heated in a microwave reactor at 120° C. for 35 mins. 4-(2-Aminoethyl)benzonitrile (0.04 g) was added to the reaction mixture, and it was heated in a microwave reactor at 120° C. for 20 mins. The reaction mixture was evaporated and the crude product was purified by flash column chromatography using hexane and EtOAc, 80:20-50:50, as eluant, to yield the title compound (0.14 g, 67%). 1H NMR (500 MHz, CDCl3): δ 1.57 (d, 6H), 2.63 (t, 2H), 3.15-3.19 (m, 2H), 4.37-4.43 (m, 1H), 5.46 (brm, 1H), 6.86 (d, 2H), 7.45-5.55 (m, 7H); 13C NMR (125 MHz, CDCl3): δ 20.4, 36.2, 44.5, 47.9, 107.8, 111.0, 118.9, 125.2, 129.1, 129.5, 130.1, 131.8, 132.7, 135.1, 143.1, 158.6; Mass Spectrum: M−H+ 394.

reactant | 4-chloro-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.52 mmol, 0.15 g | ClC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)C)=O | C12H12ClNO3S
reactant | 4-(2-aminoethyl)benzonitrile | 0.63 mmol, 0.09 g | NCCC1=CC=C(C#N)C=C1 | C9H10N2
reactant | 4-(2-Aminoethyl)benzonitrile | 0.04 g | NCCC1=CC=C(C#N)C=C1 | C9H10N2
solvent | MeCN | 1.5 ml | CC#N | C2H3N
product | 4-{2-[(2-Isopropyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]ethyl}benzonitrile | 0.14 g, 67% | C(C)(C)N1S(C(=C(C1=O)NCCC1=CC=C(C#N)C=C1)C1=CC=CC=C1)(=O)=O | C21H21N3O3S
